US09023883B2
To a solution of 3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-2-enamide (0.261 g, 0.00098 mol) and 3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde (0.250 g, 0.000817 mol) in 1,4-dioxane (8 ml) was added saturated NaHCO3 solution (8 mL). The reaction mixture was degassed using argon for 0.5 h. Tetrakis(triphenylphosphine) palladium (0.094 g, 0.000081 mol) was added under an argon atm. and the resultant suspension was heated for 8 h at 90° C. The reaction was poured into water (50 mL) extracted with EtOAc (40 mL×2). The combined extracts were washed with brine (50 mL) dried over sodium sulphate and concentrated under vacuum. The residue was purified by SGC using DCM:MeOH (0-1%) as eluent to obtain N-(3-(4-formyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)phenyl)-3-methylbut-2-enamide (0.210 g, Yield 73.43%). LCMS (ESI): RT=2.20 min, m/z=354.3 [M+H]+.

reactant | 3-methyl-N-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)but-2-enamide | 0.00098 mol, 0.261 g | CC(=CC(=O)NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C17H24BNO3
reactant | 3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-4-carbaldehyde | 0.000817 mol, 0.250 g | IC1=NN(C=C1C=O)C1OCCCC1 | C9H11IN2O2
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Tetrakis(triphenylphosphine) palladium | 0.000081 mol, 0.094 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-(3-(4-formyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)phenyl)-3-methylbut-2-enamide | 0.210 g, Yield 73.43% | C(=O)C=1C(=NN(C1)C1OCCCC1)C=1C=C(C=CC1)NC(C=C(C)C)=O | C20H23N3O3
